US07897605B2
C,C,C-Trifluoro-N-{3-[4-(4-methyl-2-methylamino-thiazol-5-yl)-pyrimidin-2-ylamino]-benzyl}-methanesulfonamide [82].
By treatment of (3-aminomethyl-phenyl)-[4-(4-methyl-2-methylamino-thiazol-5-yl)-pyrimidin-2-yl]-amine with trifluoro-methanesulfonyl chloride. Yellow solid. Anal. RP-HPLC: tR=11.6 min (0-60% MeCN, purity ˜90%). 1H-NMR (CD3OD) δ: 2.53 (s, 3H, CH3), 2.97 (s, 3H, CH3), 4.39 (s, 2H, CH2), 6.94 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 7.01 (d, 1H, J=7.5 Hz, Ph-H), 7.31 (d, 1H, J=8.0 Hz, Ph-H), 7.60 (d, 1H, J=7.5 Hz, Ph-H), 7.67 (s, 1H, Ph-H), 8.28 (d, 1H, J=5.5 Hz, pyrimidinyl-H). MS (ESI+) m/z 459.33 [M+H]+ (C17H17F3N6O2S requires 458.48).

reactant | (3-aminomethyl-phenyl)-[4-(4-methyl-2-methylamino-thiazol-5-yl)-pyrimidin-2-yl]-amine | NCC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=C(N=C(S1)NC)C | C16H18N6S
reactant | trifluoro-methanesulfonyl chloride | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | MeCN | CC#N | C2H3N
product | C,C,C-Trifluoro-N-{3-[4-(4-methyl-2-methylamino-thiazol-5-yl)-pyrimidin-2-ylamino]-benzyl}-methanesulfonamide | FC(S(=O)(=O)NCC1=CC(=CC=C1)NC1=NC=CC(=N1)C1=C(N=C(S1)NC)C)(F)F | C17H17F3N6O2S2
